US08895572B2
Step A: (2R)-5-Iodo-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
A solution of sodium nitrite (107 g, 1.55 mol) in water (500 mL) was added dropwise over 15 min to a solution of (2R)-5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one (prepared according to the procedures described in WO2008/020902, 195 g, 0.776 mol) and p-toluenesulfonic acid (443 g, 2.33 mol) in acetonitrile (1.94 L) at 23° C. After stirring for 30 min, a solution of potassium iodide (322 g, 1.94 mol) in water (500 mL) was then added over 15 minutes. The resulting mixture was stirred at 23° C. for 40 minutes, then diluted with water (2 L) and basified by the addition of solid NaOH (98.0 g, 2.44 mol) with stirring. Iodine by-product was reduced by the addition of 10% aqueous sodium thiosulfate solution and stirring for an additional 30 minutes. The solids were collected by filtration, washed with water, and dried under nitrogen atmosphere to give the title compound, which was used without further purification. MS: m/z 363.1 (M+1).

reactant | sodium nitrite | 1.55 mol, 107 g | N(=O)[O-].[Na+]
reactant | (2R)-5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | NC=1C=C2C[C@]3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H13N3O
reactant | p-toluenesulfonic acid | 2.33 mol, 443 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium iodide | 1.94 mol, 322 g | [I-].[K+]
reactant | NaOH | 2.44 mol, 98.0 g | [OH-].[Na+]
reactant | Iodine | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 500 mL | O | H2O
solvent | acetonitrile | 1.94 L | C(C)#N | C2H3N
solvent | water | 500 mL | O | H2O
solvent | water | 2 L | O | H2O
product | (2R)-5-Iodo-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | IC=1C=C2C[C@]3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H11IN2O
